Data/regression/wb97xd3/fold_0/aam_pretrain_train.csv
AAM,ea
[C:4](=[O:5])([H:7])[H:9].[N:1](=[C:2]=[N:3][H:8])[H:6]>>[N:1](=[C:2](/[N:3]([C:4](=[O:5])[H:9])[H:8])[H:7])\[H:6],40.6751491376304
[C:3](=[C:4]=[O:5])([H:9])[H:10].[H:6][H:11].[O:1]=[C:2]([H:7])[H:8]>>[O:1]([C:2]([C:3]([C:4](=[O:5])[H:11])([H:9])[H:10])([H:7])[H:8])[H:6],32.39940620307291
[C:1]1([H:7])([H:8])[C@:2]2([H:9])[C@@:3]3([H:10])[C@:4]2([H:11])[C@:5]1([H:13])[N:6]3[H:12]>>[C:1]1([H:7])([H:8])[C@:2]2([H:9])[C@:3]3([H:10])[C:4]([H:11])([H:12])[C@@:5]1([H:13])[N:6]23,63.504277833500204
[C:1]([N:2]([C:3](=[O:4])[C:5]([O:6][H:13])([H:11])[H:12])[H:10])([H:7])([H:8])[H:9]>>[C:1](=[N:2][H:10])([H:7])[H:8].[C:3](=[O:4])([C:5]([O:6][H:13])([H:11])[H:12])[H:9],83.317273616493
[N:1](=[C:2]1\[O:3][C:4]([H:9])([H:10])[C@@:5]12[C:6]([H:11])([H:12])[N:7]2[H:13])\[H:8]>>[N:1](=[C:2]=[C:5]1[C:6]([H:11])([H:12])[N:7]1[H:13])[H:8].[O:3]=[C:4]([H:9])[H:10],56.19543701125939
[C:1]([C:4]([C:2]([O:3][H:11])([H:10])[H:16])([H:12])[H:13])([H:7])([H:8])[H:9].[C:5](=[O:6])([H:14])[H:15]>>[C:1]([C@@:2]([O:3][H:11])([C:4]([C:5]([O:6][H:16])([H:14])[H:15])([H:12])[H:13])[H:10])([H:7])([H:8])[H:9],96.5649724186981
[C:1]([C@@:2]([O:3][H:12])([C:4]([C:5]([C:6](=[O:7])[H:17])([H:15])[H:16])([H:13])[H:14])[H:11])([H:8])([H:9])[H:10]>>[C:1]([C:4]([C:2](=[O:3])[H:11])([H:13])[H:14])([H:8])([H:9])[H:10].[C:5](=[C:6]([O:7][H:12])[H:17])([H:15])[H:16],66.3429739800348
[C:1]([C:2]#[C:3][C:4]([C:5](=[O:6])[C:7]([H:13])([H:14])[H:15])([H:11])[H:12])([H:8])([H:9])[H:10]>>[C:1]([C:2]#[C:3][C:4]([H:11])([H:12])[H:13])([H:8])([H:9])[H:10].[C:5](=[O:6])=[C:7]([H:14])[H:15],75.2510250859599
[C:1]1([H:7])([H:8])[O:2][C:3]12[C:4]([H:9])([H:10])[O:5][C:6]2([H:11])[H:12]>>[C:1](=[O:2])([H:7])[H:8].[C:3]1([H:9])=[C:4]([H:10])[O:5][C:6]1([H:11])[H:12],64.4160161497241
[O:1]=[C:2]([C:3](=[O:4])[C:5](=[O:6])[H:8])[H:7]>>[O+:1](=[C:2]([C:5](=[C:3]=[O:4])[H:8])[H:7])[O-:6],139.419739563496
[C:1]([O:2][C:3](=[O:4])[C:5]#[C:6][H:10])([H:7])([H:8])[H:9]>>[C:1]([O+:2]=[C:3]([O:4][H:10])[C:5]#[C-:6])([H:7])([H:8])[H:9],83.39958175536779
[C:1]([C:2]#[C:3][C:4]([C:5]([H:11])([H:12])[H:13])([C:6]([H:14])([H:15])[H:16])[O:7][H:17])([H:8])([H:9])[H:10]>>[C:1]([C:3](=[C:2])[C:4]([C:5]([H:11])([H:12])[H:13])([C:6]([H:14])([H:15])[H:16])[O:7][H:17])([H:8])([H:9])[H:10],56.57493458863971
[C:1]([C@@:2]([C:3]#[N:4])([C:5](=[O:6])[C:7]([H:12])([H:13])[H:14])[H:11])([H:8])([H:9])[H:10]>>[C:1]([c:2]1[c:3]([H:11])[n:4][o:6][c:5]1[C:7]([H:12])([H:13])[H:14])([H:8])([H:9])[H:10],70.9780564415672
[N:1]([C:2](=[O:3])[C:4]([O:5]/[C:6](=[N:7]/[H:13])[H:12])([H:10])[H:11])([H:8])[H:9]>>[C:4](=[O:5])([H:10])[H:11].[N:1]([C:2](=[O:3])/[C:6](=[N:7]/[H:13])[H:12])([H:8])[H:9],84.3176359939447
[C:1]([C@@:2]1([H:11])[O:3][C:4](=[O:5])[C:6]([H:12])=[C:7]1[H:13])([H:8])([H:9])[H:10]>>[C:1]([C@@:2]1([H:11])[O:3][C:4]([C:6](=[O:5])[H:12])=[C:7]1[H:13])([H:8])([H:9])[H:10],143.000314676897
[O:1]([C:2]([C:3]#[C:4][C:5]#[N:6])([H:8])[H:9])[H:7]>>[O:1]([N:6]=[C:5]=[C:4]=[C:3]=[C:2]([H:8])[H:9])[H:7],107.623911477893
[O:1]([C:2]([C:3]([N:4]([C:5](=[O:6])[H:13])[H:12])([H:10])[H:11])([H:8])[H:9])[H:7]>>[H:11][H:12].[O:1]([C:2](/[C:3](=[N:4]\[C:5](=[O:6])[H:13])[H:10])([H:8])[H:9])[H:7],94.77053156480792
[C:1]1([H:8])([H:10])[C@:2]([C:3]([H:12])([H:13])[H:14])([H:11])/[C:4]1=[C:5](\[C:6](=[O:7])[H:15])[H:9]>>[C:1]([C:2]([C:3]([H:12])([H:13])[H:14])([C:4]#[C:5][C:6](=[O:7])[H:15])[H:11])([H:8])([H:9])[H:10],81.90610460298872
[C:1]([C@:2]1([H:11])[C:3]([O:4][H:14])([H:13])[C@:5]1([C:6]([H:16])([H:17])[H:18])[H:15])([H:8])([H:9])[H:10].[O:7]([H:12])[H:19]>>[C:1]([C:2]([C@@:3]([O:4][H:14])([C@@:5]([C:6]([H:16])([H:17])[H:18])([O:7][H:19])[H:15])[H:13])([H:11])[H:12])([H:8])([H:9])[H:10],63.27141928834379
[C:1]([C:2](=[C:4]=[O:5])[H:11])([H:8])([H:9])[H:10].[O:3]([C:6]#[C:7][H:13])[H:12]>>[C:1]([C@@:2]([O:3][H:12])([C:4](=[O:5])[C:6]#[C:7][H:13])[H:11])([H:8])([H:9])[H:10],43.3033111171158
[O:1]1[C@@:2]2([H:7])[C@:3]1([H:8])[C@@:4]1([H:9])[O:5][C@@:6]21[H:10]>>[O:1]=[C:2](/[C:3](=[C:4](\[C:6](=[O:5])[H:10])[H:9])[H:8])[H:7],30.942465233368893
[C:1]([C:2]([C:6]([C:5]([C:3]([O:4][H:14])([O:7][H:19])[H:13])([H:15])[H:16])([H:17])[H:18])([H:11])[H:12])([H:8])([H:9])[H:10]>>[C:1]([C:2]([C@@:3]([O:4][H:14])([C:5]([C:6]([O:7][H:19])([H:17])[H:18])([H:15])[H:16])[H:13])([H:11])[H:12])([H:8])([H:9])[H:10],122.1684008333151
[O:1]=[C:2]([C:3]([C:4]#[C:5][H:10])([H:8])[H:9])[C:6]#[N:7]>>[O:1]=[C:2](/[C:3](=[C:4](/[C:5][H:10])[H:8])[H:9])[C:6]#[N:7],54.0012157654348
[O:1]([C:2]([C:3]([O:4][H:11])([C:5]([O:6][H:14])([H:12])[H:13])[H:10])([H:8])[H:9])[H:7]>>[O:1]([C:2]([C:3]([O:4][H:11])([C:5]([H:10])([H:12])[H:13])[O:6][H:14])([H:8])[H:9])[H:7],81.6242231569857
[O:1]([C:2](=[C:3]=[C:4]([H:8])[H:9])[C:5]#[N:6])[H:7]>>[O:1]([C@@:2]([C:3]#[C:4][H:9])([C:5]#[N:6])[H:8])[H:7],69.53558884314549
